US07223788B2
1-(4-Chloro-2-cyanophenyl)piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide
Piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide was reacted with 2,5-dichlorobenzonitrile as described in example 323. This resulted in the product with the molecular weight of 452.00 (C25H30ClN5O); MS (ESI): 452 (M+H+).

reactant | Piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)C1CCNCC1)C | C18H28N4O
reactant | 2,5-dichlorobenzonitrile | ClC1=C(C#N)C=C(C=C1)Cl | C7H3Cl2N
product | 1-(4-Chloro-2-cyanophenyl)piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)C1CCN(CC1)C1=C(C=C(C=C1)Cl)C#N)C | C25H30ClN5O
